US08389743B2
3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide
To a solution of crude intermediate 17, 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (˜4.3 mL ˜0.65 mmol) was added methyl-(tetrahydro-pyran-4-ylmethyl)-amine hydrochloride (200 mg, 1.21 mmol), triethylamine (0.108 ml, 0.78 mmol) and T3P (50% solution in EtOAc, 0.62 ml, 0.97 mmol). The resulting reaction mixture was stirred at rt for 1 hr and then 25 ml of 1N NaOH and 100 ml of EtOAc were added and the layers were separated. The aqueous layer was subjected to EtOAc extraction (2×60 ml) again and the combined organic layers were dried over MgSO4 and evaporated. The residue was purified by flash column chromatography using a 40 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 containing 0.25% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound (87 mg, 32% yield). Rf=0.80 (20% MeOH/CH2Cl2+0.2% NH4OH); LRMS m/z Calcd for C23H33Cl N2 O, 420.9, found, 421.3 (M+1) APCI; 400 MHz 1H NMR (CDCl3) mixture of rotomers, diagnostic peaks, δ 3.98-3.88 (m, 2H), 3.73 (s, 2H), 2.95 (s, 3H), 2.62-2.54 (m, 6H), 1.70-1.46 (m, 2H), 1.38-1.17 (m, 2H).

reactant | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ˜0.65 mmol, ˜4.3 mL | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
reactant | methyl-(tetrahydro-pyran-4-ylmethyl)-amine hydrochloride | 1.21 mmol, 200 mg | Cl.CNCC1CCOCC1
reactant | triethylamine | 0.78 mmol, 0.108 ml | C(C)N(CC)CC | C6H15N
reactant | T3P | 0.97 mmol, 0.62 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide | 87 mg, 32% yield | CN(C(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)Cl)CC1CCOCC1 | C23H33ClN2O3
